US06232290B1
A solution of methyl 4-(6-bromo-n-hexyloxy)benzoate (186 g) in methanol (1 L) was treated with 28% sodium methoxide in methanol (340 ml) and the solution refluxed for 2 hours. After cooling, the stirred solution was adjusted to pH 2 with 1M-hydrochloric acid then extracted with ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate, filtered and evaporated to give a crude oil. This oil was purified on a silica gel column (2 kg, 9:1 hexane-ethyl acetate elution) to give methyl 4-(6-methoxy-n-hexyloxy)benzoate (127 g) as an oil.

reactant | methyl 4-(6-bromo-n-hexyloxy)benzoate | 186 g | BrCCCCCCOC1=CC=C(C(=O)OC)C=C1 | C14H19BrO3
reactant | sodium methoxide | C[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 1 L | CO | CH4O
solvent | methanol | 340 ml | CO | CH4O
product | methyl 4-(6-methoxy-n-hexyloxy)benzoate | 127 g | COCCCCCCOC1=CC=C(C(=O)OC)C=C1 | C15H22O4
